### PR TITLE
The Common Futures Theorem for List Validators.

### PR DESCRIPTION
**Pull request by mcalancea**
This PR introduces the Common Futures Theorem for List Validators.

### CODE REVIEW

File: VLSM/ListValidator/CommonFutures.v [hunk 1]
```diff
@@ -0,0 +1,3436 @@
...
+       compare greater to them. *)
+    
+    Definition get_topmost_candidates
+      (s : vstate X)
+      (target : index) :
+      list state 
+      :=
+      get_maximal_elements (fun s s' => bool_decide (state_lt_ext target (project s target) (project s' target))) (get_candidates s).
+    
+    (* If <<i>> is honest, all candidate projections onto <<i>> compare less than
```
Comment (palmskog) [inline VLSM/ListValidator/CommonFutures.v:892]: Same comment as elsewhere, these kinds of comments make sense to convert to coqdoc comments.

File: VLSM/ListValidator/CommonFutures.v [hunk 2]
```diff
@@ -0,0 +1,3436 @@
...
+  Qed.
+      
+    Definition get_matching_plan
+      (s : vstate X)
+      (from to : index) : vplan X :=
+      let s' := get_matching_state s to from in
+      match (sync s s' to from) with
+      | None => []
+      | Some a => a
+      end.
```
Comment (palmskog) [inline VLSM/ListValidator/CommonFutures.v:1311]:
```suggestion
      match (sync s (get_matching_state s to from) to from) with
      | None => []
      | Some a => a
      end.
```
Maybe nitpicky, but `s'` does not occur in multiple places, why make it a let? A bit less work for proof automation without the let. Applies elsewhere as well.

File: VLSM/ListValidator/CommonFutures.v [hunk 3]
```diff
@@ -0,0 +1,3436 @@
...
+                 intuition.
+                 (apply protocol_state_component_no_bottom; assumption).
+                 intuition.
+                 (apply protocol_state_component_no_bottom; assumption).
+          -- rewrite state_update_neq.
+             rewrite state_update_neq.
+             all : intuition.
+    Qed.
+      
+    Definition others (i : index) (s : vstate X) :=
```
Comment (palmskog) [inline VLSM/ListValidator/CommonFutures.v:2103]: This looks like a generic definition of set removal, so are the specialized results like `NoDup_others` below really needed?

File: VLSM/ListValidator/CommonFutures.v [hunk 4]
```diff
@@ -0,0 +1,3436 @@
...
+  Lemma all_message_observations_old
+    (s : vstate X)
+    (Hpr : protocol_state_prop X s)
+    (Hnf : no_component_fully_equivocating s (GH s))
+    (res_send := send_phase_result s)
+    (res := common_future s) 
+    (target : index)
+    (Htarget : ~In target (GH res))
+    (e : simp_lv_event) :
+    In e (hcobs_messages res target) ->
```
Comment (palmskog) [inline VLSM/ListValidator/CommonFutures.v:2796]: I'm not a huge fan of the convention to name every premise in each lemma, but why not do it here?

File: VLSM/ListValidator/Equivocation.v [hunk 5]
```diff
@@ -588,16 +568,175 @@ Context
...
       (s1 s2 : state)
       : bool
       := state_leb s1 s2 &&
       existsb
         (fun i : index =>
-          existsb (fun s : state => negb (inb decide_eq s (get_history s1 i))) (get_history s2 i))
+          existsb (fun s : state => negb (inb decide_eq s (get_history' s1 i))) (get_history' s2 i))
         index_listing.
+          
+     Definition state_lt'
```
Comment (palmskog) [inline VLSM/ListValidator/Equivocation.v:582]: It should be possible to avoid the boolean stuff here (e.g.,`ltb*`) by relying only on decidability typeclasses. In turn, this means we can avoid `PredicateFunction` and friends. But this change is perhaps best done as a new commit. I will take a look and see how easy it is. If it takes time, best done after merge of the PR.

File: VLSM/ListValidator/EquivocationAwareComposition.v [hunk 6]
```diff
@@ -0,0 +1,2058 @@
...
+     rewrite Hres_long in Hone.
+     specialize (Hone Hpra_short).
+     rewrite Hres_long. rewrite Hres_short.
+     rewrite Hres_long.
+     intuition.
+     intuition.
+  Qed.
+  
+  Definition component_list (s : vstate X) (li : list index) :=
+    List.map s li.
```
Comment (palmskog) [inline VLSM/ListValidator/EquivocationAwareComposition.v:255]: I know these wrappings are convenient, but it may make proof automation more difficult further on. Maybe use a local notation instead?
```suggestion
  Local Notation component_list s li := (List.map s li).
```

File: VLSM/ListValidator/EquivocationAwareComposition.v [hunk 7]
```diff
@@ -0,0 +1,2058 @@
...
+          split.
+          -- apply in_cobs_messages'.
+             unfold s'.
+             setoid_rewrite <- cobs_message_existing_other. 
+             all : intuition.
+          -- split;[intuition|].
+             intuition.
+  Qed.
+  
+  Lemma ep_plan
```
Comment (palmskog) [inline VLSM/ListValidator/EquivocationAwareComposition.v:1956]: Maybe expand on this name. It's too short to be informative.

File: VLSM/ListValidator/GeneralComposition.v [hunk 8]
```diff
@@ -27,30 +28,54 @@ Context
...
+    apply (protocol_state_projection IM_index constraint i) in Hprs.
+    unfold protocol_state_prop in Hprs.
+    destruct Hprs as [om Hprs] in Hprs.
+    apply (proj_pre_loaded_with_all_messages_protocol_prop IM_index constraint i) in Hprs.
+    unfold protocol_state_prop.
+    exists om.
+    assumption.
+  Qed.
+  (*
   Definition composed_eqv_evidence
```
Comment (palmskog) [inline VLSM/ListValidator/GeneralComposition.v:57]: Why edit in commented out code? Maybe the commented out code should just be removed instead?

File: VLSM/ListValidator/ListValidator.v [hunk 9]
```diff
@@ -466,13 +466,21 @@ Definition global_decisions (s : state) : list (option bool) :=
     taken into account).
  **)
 
+Definition in_mode_b (modes : list (option bool)) (b : bool) : bool :=
```
Comment (palmskog) [inline VLSM/ListValidator/ListValidator.v:469]: This definition is likely better written as a predicate and then shown to be decidable using the `Decision` or `RelDecision` typeclasses.

File: VLSM/ListValidator/Observations.v [hunk 10]
```diff
@@ -0,0 +1,1548 @@
...
+       lia.
+  Qed.
+  
+  (* Some useful shortcuts for relating observations of states and their projections. *)
+  
+  Lemma unfold_raw_observations
+    (s s': state)
+    (Hnb : s <> Bottom)
+    (target : index) :
+    In s' (get_raw_observations s target) ->
```
Comment (palmskog) [inline VLSM/ListValidator/Observations.v:249]: Same comment here about unnamed premises as elsewhere.

File: VLSM/ListValidator/Observations.v [hunk 11]
```diff
@@ -0,0 +1,1548 @@
...
+    | Message'.
+    
+    Global Instance simp_event_type_eq_dec : EqDecision simp_lv_event_type.
+      solve_decision.
+    Defined.
+    
+    (* Each observation as a type, a validator (the subject of its observation)
+       and an underlying state *) 
+    
+    Inductive simp_lv_event : Type :=
```
Comment (palmskog) [inline VLSM/ListValidator/Observations.v:433]: This definition *could* just be a tuple. Is there a reason you want to "wrap" the members behind a constructor? Not obvious to me what is best, but a comment about rationale would help.

File: Lib/Preamble.v [hunk 12]
```diff
@@ -83,7 +83,15 @@ Proof.
...
 Qed.
-
+   
+Lemma forall_and_commute
+  {A : Type}
+  (P Q : A -> Prop)
+  : (forall a, P a) /\ (forall a, Q a) <-> forall a, P a /\ Q a.
+Proof.
+  clear.
+  firstorder.
```
[the remark this answers is not in the document]
Comment (bmmoore) [reply Lib/Preamble.v:93]: My intuition is usually to put a `clear` before `firstorder` because irrelevant hypotheses can make it take quite a long time.
However, for this specific special case of a lemma whose *entire proof* is `firstorder`, just using `firstorder` is fine.

File: VLSM/ListValidator/Observations.v (hunk 10 above)
Comment (mcalancea) [reply VLSM/ListValidator/Observations.v:249]: I don't think there's another comment on this subject I can reference (?). Sometimes I like to single out a certain premise as being the "main" requirement, so as to reflect the line of (informal) thought. So if the thought process is "hm, I would like to get B from A, in which context is this true?", I find it nice to state it as "if context, then (A -> B)". Does this make sense? Would it help if I would just name it when `intro`ing?

File: VLSM/ListValidator/Observations.v (hunk 11 above)
Comment (mcalancea) [reply VLSM/ListValidator/Observations.v:433]: I think it's more readable this way, perhaps an influence from Domain-Driven Design (there was talk of it in the Haskell backend team, and some details stuck with me).

File: VLSM/ListValidator/CommonFutures.v [hunk 13]
```diff
@@ -0,0 +1,3436 @@
...
+        * unfold feasible_update_composite; simpl.
+          apply finite_protocol_plan_from_one.
+          unfold protocol_transition.
+          split.
+          apply feasible_update_protocol.
+          all : intuition.
+        * rewrite Heqs' in IHli at 1.
+          unfold chain_updates in IHli.
+          rewrite Hchain; intuition.
+      +
```
[the remark this answers is not in the document]
Comment (mcalancea) [reply VLSM/ListValidator/CommonFutures.v:365]: I think the order we've used until now swapped the `*` and the `+`. I'm not sure what the inconsistency is in this proof, is it the `-` in the `assert`s?. I figured I can reset the depth when starting a new block, but I'll change it if that's too weird.

[the remark this answers is not in the document]
Comment (palmskog) [reply VLSM/ListValidator/CommonFutures.v:365]: Yes, I was mainly referring to the the "reset" of bullets types inside the blocks `{ ... }`. This unfortunately makes it much harder to use bullets as depth indicator. It's fine by me to do `-`,`+`,`*`, but I think it should reach inside blocks as well.

File: VLSM/ListValidator/Observations.v (hunk 11 above)
Comment (palmskog) [reply VLSM/ListValidator/Observations.v:433]: But in this case, wouldn't it make more sense to make it a `Record`? Then, you actually both have a constructor and accessor functions for the members.

File: VLSM/ListValidator/Observations.v (hunk 10 above)
Comment (palmskog) [reply VLSM/ListValidator/Observations.v:249]: I was talking about this comment: https://github.com/runtimeverification/casper-cbc-proofs/pull/174#discussion_r577647530

It's fine by me to do it this way with sometimes using unnamed hypotheses, but I think there be some guidelines about this somewhere.

File: VLSM/ListValidator/CommonFutures.v (hunk 13 above)
[the remark this answers is not in the document]
Comment (bmmoore) [reply VLSM/ListValidator/CommonFutures.v:365]: @palmskog The Coq documentation suggests the order `-` `+` `*`, and Proof General depends on that order when indenting.

File: VLSM/ListValidator/CommonFutures.v [hunk 14]
```diff
@@ -0,0 +1,3436 @@
...
+   - [Observations.v] for the observation model used here
+   - [EquivocationAwareListValidator.v] for the used estimators
+   - [EquivocationAwareComposition.v] for results concerning this type of composition
+   - [Equivocation.v] and [ListValidator.v] for some general
+     facts about List Validators. *)
+     
+
+Section CommonFutures.
+
+(* The Common Futures Theorem for List Validators.
```
[the remark this answers is not in the document]
Comment (mcalancea) [reply VLSM/ListValidator/CommonFutures.v]: It's not intentional, thanks for catching it :).

File: VLSM/ListValidator/CommonFutures.v (hunk 13 above)
[the remark this answers is not in the document]
Comment (mcalancea) [reply VLSM/ListValidator/CommonFutures.v]: I gave up resetting them, will keep in mind for the future. Personally it feels a bit weird to continue the same depth inside a self-contained block, but I agree my solution is probably worse.

File: VLSM/ListValidator/Equivocation.v (hunk 5 above)
Comment (mcalancea) [reply VLSM/ListValidator/Equivocation.v:582]: I think `state_ltb'` is only used to prove `RelDecision`, so in a way it's only notation? The other stuff surrounding `state_lt'`, including the `PredicateFunction`, got deleted in #177, will merge it soon.

File: VLSM/ListValidator/GeneralComposition.v (hunk 8 above)
Comment (mcalancea) [reply VLSM/ListValidator/GeneralComposition.v]: I simply forgot about this file at some point, thanks. I removed the commented code.

File: VLSM/ListValidator/ListValidator.v (hunk 9 above)
Comment (mcalancea) [reply VLSM/ListValidator/ListValidator.v]: Done.

File: VLSM/ListValidator/Observations.v (hunk 10 above)
Comment (mcalancea) [reply VLSM/ListValidator/Observations.v:249]: I missed a bunch of comments because they were folded automatically, sorry. I think I'm going to keep this one as is if it's fine with you, but I will be more wary/consistent in the future. I am interested in reading/discussing guidelines about this kind of stuff.

File: VLSM/ListValidator/Observations.v (hunk 11 above)
Comment (mcalancea) [reply VLSM/ListValidator/Observations.v]: Yup, it does, I just hadn't written any `Record`s to get in the habit, I think. Thank you for the suggestion.

File: VLSM/ListValidator/CommonFutures.v (hunk 3 above)
Comment (mcalancea) [reply VLSM/ListValidator/CommonFutures.v:2097]: It's set removal from a specific set and the specialized results use properties of that set, so I thought it's worth it. This set actually changed over time so it was convenient to have them written this way (and not inlined in other proofs). I've restated them as `Remark`s to highlight they're no big deal.

File: VLSM/ListValidator/CommonFutures.v [hunk 15]
```diff
@@ -0,0 +1,3416 @@
...
+      apply send_phase_result_protocol.
+      all : intuition.
+    Qed. 
+    
+    Corollary GH_eq1
+      (s : vstate X)
+      (Hpr : protocol_state_prop X s)
+      (Hnf : no_component_fully_equivocating s (GH s))
+      (res_send := send_phase_result s)
+      (res := common_future s) :
```
Comment (traiansf) [inline VLSM/ListValidator/CommonFutures.v:2472]: it seems that `res` is not used here

File: VLSM/ListValidator/CommonFutures.v [hunk 16]
```diff
@@ -0,0 +1,3416 @@
...
+      unfold GE in He.
+      apply wE_eq_equality in He.
+      intuition.
+    Qed.
+    
+    Corollary GH_eq2
+      (s : vstate X)
+      (Hpr : protocol_state_prop X s)
+      (Hnf : no_component_fully_equivocating s (GH s))
+      (res_send := send_phase_result s)
```
Comment (traiansf) [inline VLSM/ListValidator/CommonFutures.v:2486]: it seems that res_send is not used here

File: VLSM/ListValidator/CommonFutures.v [hunk 17]
```diff
@@ -0,0 +1,3416 @@
...
+      unfold HH.
+      apply wH_wE'.
+      intuition.
+    Qed.
+   
+  Lemma honest_receive_honest
+    (s : vstate X)
+    (Hpr : protocol_state_prop X s)
+    (Hnf : no_component_fully_equivocating s (GH s))
+    (res_send := send_phase_result s)
```
Comment (traiansf) [inline VLSM/ListValidator/CommonFutures.v:2629]: `res_send` is used in the proof, but not in the statement.

**Review by traiansf — APPROVED** [review]
Looks OK to me at a (very) fast glance. However, I got confused about some definitions in lemmas of the form (s := ...) which were not referred to in the lemma statement.
I understand that you might want to use them in the proof, but then you could use `pose (s := ...)` once you start the proof.

**Review by traiansf — APPROVED** [review]
